US05180829
1-Hydroxy-2,6-diphenyl-3-methylpiperidin-4-yl Laurate
The general procedure of Example 2 is repeated using 11.5 g (25.5 mmol) of 2,6-diphenyl-3-methylpiperidin-4-yl laurate and 570 mL (25.5 mmol) of dimethyldioxirane (0.045M in acetone). 11.8 g (99% yield) of the title compound is isolated: mp 84°-91° C.

reactant | 2,6-diphenyl-3-methylpiperidin-4-yl laurate | 25.5 mmol, 11.5 g | C(CCCCCCCCCCC)(=O)OC1C(C(NC(C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C30H43NO2
reactant | dimethyldioxirane | 25.5 mmol, 0.045M, 570 mL | CC1(OO1)C | C3H6O2
product | 1-Hydroxy-2,6-diphenyl-3-methylpiperidin-4-yl Laurate | 11.8 g, 99% yield | C(CCCCCCCCCCC)(=O)OC1C(C(N(C(C1)C1=CC=CC=C1)O)C1=CC=CC=C1)C | C30H43NO3
